US08084620B2
A suspension of sodium hydride (60% oil dispersion, 112 mg, 2.81 mmol) in THF (12 mL) was stirred at rt and treated with a solution of 4-bromo-1H-indole (500 mg, 2.55 mmol) in THF (3 mL). After 1-2 min, the mixture was treated with 4-fluorobenzyl bromide (0.318 mL, 2.55 mmol) and the slightly cloudy solution was stirred at rt. After 20 h, the mixture was concentrated. The residue was partitioned between EtOAc and 0.1 M hydrochloric acid, and the aqueous phase was again extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 90:10 to 50:50 hexane-EtOAc) to provide 4-bromo-1-(4-fluorobenzyl)-1H-indole as a colorless oil (461.4 mg, 85% purity, 51%) contaminated by ca. 15% by weight of 4-bromo-1,3-bis(4-fluorobenzyl)-1H-indole. 1H NMR (400 MHz, chloroform-d) δ 7.28 (1H, dd, J=7.6, 0.8 Hz), 7.19 (1H, d, J=8.4 Hz), 7.16 (1H, d, J=3.3 Hz), 6.94-7.09 (5H, m), 6.60 (1H, dd, J=3.1, 0.9 Hz), 5.28 (2H, s). Mass spectrum m/z 304, 306 (M+H)+.

reactant | sodium hydride | 2.81 mmol, 112 mg | [H-].[Na+]
reactant | 4-bromo-1H-indole | 2.55 mmol, 500 mg | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 4-fluorobenzyl bromide | 2.55 mmol, 0.318 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-bromo-1-(4-fluorobenzyl)-1H-indole | BrC1=C2C=CN(C2=CC=C1)CC1=CC=C(C=C1)F | C15H11BrFN
